US07199105B2
To a mixture of 4-(3,3-difluoro-butyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (92.7 mg, 0.23 mmol, 1 equiv) in THF (1.2 mL) and water (0.4 mL) was added lithium hydroxide monohydrate (49 mg, 1.17 mmol, 5 equiv). The reaction mixture was stirred at rt overnight. the THF was removed under vacuum. The residue was diluted with water, washed with ether. The aqueous layer was taken up in ethyl acetate, partitioned with 10% citric acid. The organic layer was washed with water (1×), brine (1×), dried and concentrated to give a white solid, 4-(3,3-difluoro-butyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (59.7 mg, 83%).

reactant | 4-(3,3-difluoro-butyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.23 mmol, 92.7 mg, 1 equiv | COC(=O)C1N(CC(C1)CCC(C)(F)F)C(=O)OC(C)(C)C | C15H25F2NO4
reactant | lithium hydroxide monohydrate | 1.17 mmol, 49 mg, 5 equiv | O.[OH-].[Li+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
solvent | water | 0.4 mL | O | H2O
product | 4-(3,3-difluoro-butyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 59.7 mg, 83% | C(C)(C)(C)OC(=O)N1C(CC(C1)CCC(C)(F)F)C(=O)O | C14H23F2NO4
